US07829560B2
N-(4-{[2-(Cyclobutylamino)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-piperidin-1-ylbenzamide (Compound B383).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and cyclobutylamine according to conditions described in general procedure C. Mp: 112-114° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.58-1.61 (m, 7 H), 1.80 (bs, 2 H), 2.10 (s, 1 H), 3.27-3.28 (m, 5 H), 6.32 (s, 1 H), 6.98 (d, 1 H), 7.15 (d, 1 H), 7.36-7.54 (m, 3 H), 7.57-7.62 (m, 3 H), 7.80 (d, 1 H), 7.95 (d, 1 H), 8.20 (s, 1 H), 10.41 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | cyclobutylamine | C1(CCC1)N | C4H9N
product | N-(4-{[2-(Cyclobutylamino)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-piperidin-1-ylbenzamide | C1(CCC1)NC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C30H30FN5O2
